US07960376B2
Step 1: Preparation of 4-(4-hydroxy-2-methylbutan-2-ylthio)-3-nitrobenzoic acid
To a solution of 4-fluoro-3-nitrobenzoic acid (2 g, 10.80 mmol) in DMF (50 ml) was added potassium carbonate (3.73 g, 27.0 mmol), and 3-mercapto-3-methylbutan-1-ol (1.450 ml, 11.88 mmol). The reaction was stirred at room temperature for 16 hours. The reaction mixture had turned yellow over night. The DMF was removed under reduced pressure and the resulting slurry was diluted with EtOAc (100 mL) and extracted with H2O (100 mL). The aqueous layer was then treated with conc. HCl until a precipitate formed. The mixture was extracted with EtOAc (3×100 mL) and the combined organics were dried over Na2SO4 and concentrated in vacuo. The product was isolated as a yellow solid and used without further purification.

reactant | 4-fluoro-3-nitrobenzoic acid | 10.80 mmol, 2 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | potassium carbonate | 27.0 mmol, 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-mercapto-3-methylbutan-1-ol | 11.88 mmol, 1.450 ml | SC(CCO)(C)C | C5H12OS
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(4-hydroxy-2-methylbutan-2-ylthio)-3-nitrobenzoic acid | OCCC(C)(SC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])C | C12H15NO5S
